US05397567
13.5 g of sorbitol was dissolved in 80 g of water in an evacuatable reactor equipped with stirrer and homogenizer. 75 g of a 4% polyvinyl alcohol solution was added, and the resulting solution was heated to 70°-80° C. 1.5 g of timolol hydrogen maleate was dissolved in the mixture, and after the homogenizer had been turned on, 1.5 g of carbomer was added to the solution in small portions. After all the portions had been added, the homogenizer was allowed to run for an additional 5 minutes to complete the dispersion process. 100 g of a 0.024% solution of benzalkonium chloride was dripped slowly with stirring into this mixture. The gel was formed by the addition of 28.3 g of a 11.7% solution of lysine. During the cooling phase, the reactor was evacuated to deaerate the gel.

reactant | sorbitol | 13.5 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | timolol hydrogen maleate | 1.5 g | CC(C)(C)NC[C@@H](COC1=NSN=C1N2CCOCC2)O.C(=C\C(=O)O)\C(=O)O
reactant | benzalkonium chloride | CCCCCCCCCCCCC[N+](C)(C)CC=1C=CC=CC1.[Cl-]
solvent | water | 80 g | O | H2O
product | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
